* R04E6 - EPE2019 Fig.5 3-state charge-redistribution ladder bootstrap (r04e6_th_20000ns_ncyc_1)
* SENSITIVITY CASE: TH=20000 ns per state, NCYC=1 cycles.
* CROSS_PAPER_EXTENSION (startup mechanism only): Roberts/McRae/Prodic,
* EPE'19 ECCE Europe, Fig. 5 (p.5), "conventional 4-phase SC buck" states
* (a) Charging / (b) Charge Redistribution I / (c) Charge Redistribution II.
* See BOUNDARY.md for the full per-item borrowed-fact table and the
* independent truth-table derivation/cross-check against the rendered figure.
* Power-stage connectivity (SH1-4/SL1-4/CS1-3/L1-4 node names) is copied
* UNCHANGED from paper_locked/02_ectc2024_main/spice/
* R04E3_P24_minimal_zero_start_event_cycle.cir's SCB4P_P24_EVENT subcircuit
* (already-validated P24 four-phase connectivity; reused, not reinvented).
* CFLY=53.8uF, COUT=4.672mF: already-approved EPE2019 cross-source
* candidates, unchanged from R02-R04E5 (not re-derived here).
* True zero initial energy on every capacitor and inductor (ic=0, UIC),
* same starting point as R04E3/R04E5. SCOPE: ladder bootstrap ONLY -- no
* PWM, no P24 steady-state ZVS admission chain, no Vout regulation attempt.
* Open-loop FIXED hold time per state (the source paper gives no event or
* threshold to detect; TH and NCYC are free SENSITIVITY_ONLY axes).

.include "../../../../paper_locked/04_component_models/GS61008T_typical_params.lib"
.param VIN=48 VOUT_REF=1 POUT_MODULE=250 NP=4 NM=4
.param LPHASE=1.466666666666667n CFLY={4*10u+2*4.7u+2*2.2u}
.param COUT={8*220u+32*47u+64*22u} RLOAD={VOUT_REF*VOUT_REF/POUT_MODULE}
.param CH={GS61008T_COTR_0_50V} CL={2*GS61008T_COTR_0_50V}
.param RHS={GS61008T_RDS_TYP_25C} RLS={GS61008T_RDS_TYP_25C/2}
.param RLDAMP=1u

VRAIL vin 0 {VIN}
CCO out 0 {COUT} ic=0
RLOAD_MAIN out 0 {RLOAD}
XMOD vin out 0 gh1_cmd gl1_cmd gh2_cmd gl2_cmd gh3_cmd gl3_cmd SCB4P_P24_R04E6

VGH1 gh1_cmd 0 PWL(0.000000e+00 0 9.000000e-10 0 1.000000e-09 5 2.000090e-05 5 2.000100e-05 0 6.000100e-05 0)
VGL1 gl1_cmd 0 PWL(0.000000e+00 0 9.000000e-10 0 1.000000e-09 5 4.000090e-05 5 4.000100e-05 0 6.000100e-05 0)
VGH2 gh2_cmd 0 PWL(0.000000e+00 0 2.000090e-05 0 2.000100e-05 5 4.000090e-05 5 4.000100e-05 0 6.000100e-05 0)
VGL2 gl2_cmd 0 PWL(0.000000e+00 0 2.000090e-05 0 2.000100e-05 5 6.000090e-05 5 6.000100e-05 0)
VGH3 gh3_cmd 0 PWL(0.000000e+00 0 4.000090e-05 0 4.000100e-05 5 6.000090e-05 5 6.000100e-05 0)
VGL3 gl3_cmd 0 PWL(0.000000e+00 0 4.000090e-05 0 4.000100e-05 5 6.000090e-05 5 6.000100e-05 0)

.meas tran VOUT_FINAL FIND V(out) AT 6.000100e-05
.meas tran IL1_MAX MAX I(XMOD:L1) FROM 0 TO 6.000100e-05
.meas tran IL1_MIN MIN I(XMOD:L1) FROM 0 TO 6.000100e-05
.meas tran IL2_MAX MAX I(XMOD:L2) FROM 0 TO 6.000100e-05
.meas tran IL2_MIN MIN I(XMOD:L2) FROM 0 TO 6.000100e-05
.meas tran IL3_MAX MAX I(XMOD:L3) FROM 0 TO 6.000100e-05
.meas tran IL3_MIN MIN I(XMOD:L3) FROM 0 TO 6.000100e-05
.meas tran ICS1_MAX MAX I(XMOD:CS1) FROM 0 TO 6.000100e-05
.meas tran ICS1_MIN MIN I(XMOD:CS1) FROM 0 TO 6.000100e-05
.meas tran ICS2_MAX MAX I(XMOD:CS2) FROM 0 TO 6.000100e-05
.meas tran ICS2_MIN MIN I(XMOD:CS2) FROM 0 TO 6.000100e-05
.meas tran ICS3_MAX MAX I(XMOD:CS3) FROM 0 TO 6.000100e-05
.meas tran ICS3_MIN MIN I(XMOD:CS3) FROM 0 TO 6.000100e-05
.meas tran ICS1_INRUSH_CYC1 MAX I(XMOD:CS1) FROM 1.000000e-09 TO 2.000100e-05
.meas tran ICS1_STATEB_CYC1_MAX MAX I(XMOD:CS1) FROM 2.000100e-05 TO 4.000100e-05
.meas tran ICS1_STATEB_CYC1_MIN MIN I(XMOD:CS1) FROM 2.000100e-05 TO 4.000100e-05
.meas tran ICS2_STATEB_CYC1_MAX MAX I(XMOD:CS2) FROM 2.000100e-05 TO 4.000100e-05
.meas tran ICS2_STATEB_CYC1_MIN MIN I(XMOD:CS2) FROM 2.000100e-05 TO 4.000100e-05
.meas tran ICS2_STATEC_CYC1_MAX MAX I(XMOD:CS2) FROM 4.000100e-05 TO 6.000100e-05
.meas tran ICS2_STATEC_CYC1_MIN MIN I(XMOD:CS2) FROM 4.000100e-05 TO 6.000100e-05
.meas tran ICS3_STATEC_CYC1_MAX MAX I(XMOD:CS3) FROM 4.000100e-05 TO 6.000100e-05
.meas tran ICS3_STATEC_CYC1_MIN MIN I(XMOD:CS3) FROM 4.000100e-05 TO 6.000100e-05
.meas tran VC1_CYC1 FIND V(xmod:a1,xmod:x1) AT 6.000100e-05
.meas tran VC2_CYC1 FIND V(xmod:a2,xmod:x2) AT 6.000100e-05
.meas tran VC3_CYC1 FIND V(xmod:a3,xmod:x3) AT 6.000100e-05
.options plotwinsize=0 reltol=1e-5 abstol=1e-9 chgtol=1e-16 solver=alt cshunt=1e-15
.save V(out) V(xmod:a1,xmod:x1) V(xmod:a2,xmod:x2) V(xmod:a3,xmod:x3) I(XMOD:L1) I(XMOD:L2) I(XMOD:L3) I(XMOD:CS1) I(XMOD:CS2) I(XMOD:CS3) V(gh1_cmd) V(gl1_cmd) V(gh2_cmd) V(gl2_cmd) V(gh3_cmd) V(gl3_cmd)
.tran 0 6.000100e-05 0 1n UIC

.subckt SCB4P_P24_R04E6 vin out g gh1_in gl1_in gh2_in gl2_in gh3_in gl3_in
BGH1 gh1 g V=V(gh1_in,g)
BGL1 gl1 g V=V(gl1_in,g)
BGH2 gh2 g V=V(gh2_in,g)
BGL2 gl2 g V=V(gl2_in,g)
BGH3 gh3 g V=V(gh3_in,g)
BGL3 gl3 g V=V(gl3_in,g)
VGH4 gh4 g 0
VGL4 gl4 g 0

SH1 vin a1 gh1 g SWH
CH1 vin a1 {CH} ic=0
CS1 a1 x1 {CFLY} ic=0
CL1 x1 g {CL} ic=0
SL1 x1 g gl1 g SWL
L1 x1 out {LPHASE} Rser={RLDAMP} ic=0
SH2 a1 a2 gh2 g SWH
CS2 a2 x2 {CFLY} ic=0
SL2 x2 g gl2 g SWL
L2 x2 out {LPHASE} Rser={RLDAMP} ic=0
SH3 a2 a3 gh3 g SWH
CS3 a3 x3 {CFLY} ic=0
SL3 x3 g gl3 g SWL
L3 x3 out {LPHASE} Rser={RLDAMP} ic=0
SH4 a3 x4 gh4 g SWH
SL4 x4 g gl4 g SWL
L4 x4 out {LPHASE} Rser={RLDAMP} ic=0

RNUM_A1 a1 g 1Meg
RNUM_X1 x1 g 1Meg
RNUM_A2 a2 g 1Meg
RNUM_X2 x2 g 1Meg
RNUM_A3 a3 g 1Meg
RNUM_X3 x3 g 1Meg
RNUM_X4 x4 g 1Meg
.model SWH SW(Ron={RHS} Roff=1T Vt=2.5 Vh=0)
.model SWL SW(Ron={RLS} Roff=1T Vt=2.5 Vh=0)
.ends SCB4P_P24_R04E6
.end
